US06927221B2
N-Butyl-N-(6-(4-chlorobutyl)-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)amine
Phosphorus oxychloride (11.3 g) and N,N-dimethylaniline (3 droplets) were added to 4-(7-(butyl)-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-1-butanol (320 mg, 0.78 mmol), followed by heating under reflux for 0.5 hour. After the reaction, the mixture was treated with ice-water, neutralized with potassium carbonate, extracted with ethyl acetate, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (10-15% ethyl acetate/hexane), to give the title compound (254 mg) as a pale yellow oil.

reactant | Phosphorus oxychloride | 11.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | 4-(7-(butyl)-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-1-butanol | 0.78 mmol, 320 mg | C(CCC)C1=C(C(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C)CCCCO | C25H35N3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | N-Butyl-N-(6-(4-chlorobutyl)-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)amine | 254 mg | C(CCC)NC1(C(=NC=2N(C1)N=C(C2C2=C(C=C(C=C2C)C)C)C)C)CCCCCl | C25H37ClN4
